US05162547
A reactor equipped with stirrer, reflux condenser and thermometer is charged with 102.18 g (1.0 mol) of 1-hexanol and 3.14 g (0.02 mol) of powdered tin difluoride, and the charge is heated to 115° C. Then, with efficient stirring, 86.26 ml (1.1 mol) of epichlorohydrin are added over 1 hour. The reaction is allowed to continue for 8 hours, during which time the temperature slowly rises to about 125° C. The reaction mixture is cooled to 55° C. and then, at this temperature, 88 g (1.1 mol) of a 50% aqueous solution of sodium hydroxide are added dropwise with efficient stirring over 30 minutes. After stirring for 6 hours at 55° C. and cooling to room temperature, the suspension is filtered and the filtrate is washed with ethyl acetate. The phases are separated, and the aqueous phase is extracted with 2×100 ml of ethyl acetate. The combined organic phases are neutralised with CO2, dried over magnesium sulfate and filtered. The filtrate is freed from solvent on a rotary evaporator under vacuum (bath temperature 50° C.). Yield: 142.7 g (90.2% of theory) of colourless 1-hexanol glycidyl ether for which the following analytical values are obtained: epoxy value: 5.5 eq/kg (87% of theory); total chlorine content: 3.2% hydrolysable chlorine content: 0.21%.

reactant | 1-hexanol | 1.0 mol, 102.18 g | C(CCCCC)O | C6H14O
reactant | epichlorohydrin | 1.1 mol, 86.26 ml | C(Cl)C1CO1 | C3H5ClO
reactant | sodium hydroxide | [OH-].[Na+]
catalyst | tin difluoride | 0.02 mol, 3.14 g | [Sn](F)F
product | 1-hexanol glycidyl ether | Yield: 142.7 g, 90.2% | C(C1CO1)OCCCCCC | C9H18O2
